US05354749
4-(Bromomethyl)benzene-sulphonyl chloride
38.1 g (0.2 mol) of 4-methylbenzenesulphonyl chloride are dissolved in 300 ml of carbon tetrachloride, 35.6 g (0.2 mol) of N-bromosuccinimide are added and, after addition of 0.2 g (1.2 mmol) of azobisisobutyronitrile (AIBN),the mixture is heated under reflux for 4 hours. After cooling, the solids are filtered off and the filtrate is freed from the solvent. Flash chromatography (petroleum ether/toluene 4:1, 50 μm particle size) and subsequent recrystallisation from 100 ml of cyclohexane give 24.0 g (45% of theory) of the title compound. Rf =0.75 (toluene).

reactant | 4-methylbenzenesulphonyl chloride | 0.2 mol, 38.1 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | N-bromosuccinimide | 0.2 mol, 35.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(Bromomethyl)benzene-sulphonyl chloride | BrCC1=CC=C(C=C1)S(=O)(=O)Cl | C7H6BrClO2S
